US07713994B2
To a suspension of isonipocotic acid (8.3 g, 64 mmol) in methanol (250 mL) is added tetrabutylammonium hydroxide (40% aqueous solution, 42 mL). Solvents were then removed under reduced pressure. Residual water is removed by azeotropic distillation with toluene. The semisolid tetrabutylammonium isonipecotate is dried under high vacuum. To a solution of tetrabutylammonium isonipecotate (64 mmol) in dimethylsulfoxide (150 mL) is added 4-fluoronitrobenzene (7.5 mL, 71 mmol) and potassium carbonate (9.6 g, 70 mmol). The reaction mixture is heated in a 75° C. oil bath for three hours and then allowed to cool to room temperature. Water is added, followed by concentrated hydrochloric acid to bring the mixture to pH 6. The precipitated material is collected by filtration, washed with acetonitrile, and dried under house vacuum to provide 1-(4-nitrophenyl)piperidine-4-carboxylic acid as a yellow powder (14 g, 88%).

reactant | tetrabutylammonium hydroxide | 42 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrabutylammonium isonipecotate | 64 mmol | N1CCC(C(=O)[O-])CC1.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-fluoronitrobenzene | 71 mmol, 7.5 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 70 mmol, 9.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 250 mL | CO | CH4O
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 1-(4-nitrophenyl)piperidine-4-carboxylic acid | 14 g, 88% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C12H14N2O4
